US05292949
Example 2: Benzoic anhydride
300 g of benzoyl chloride (2.13 mol) are mixed with 91 g of acetic anhydride (0.89 mol) and the mixture is heated to 100° to 120° C. The resultant acetyl chloride is removed by distillation under reduced pressure (400 mbar) and, upon completion of the reaction, excess benzoyl chloride is removed by distillation at about 7 mbar. The residue consists of pure benzoic anhydride. Yield: 200 g (=99% of theory) of benzoic anhydride.

reactant | benzoyl chloride | 2.13 mol, 300 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | acetic anhydride | 0.89 mol, 91 g | C(C)(=O)OC(C)=O | C4H6O3
product | Benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
